US06951848B2
5-(1-Ethoxycarbonyl-1-methyl-ethoxy)-2-methyl-1H-indole-3-carboxylic acid benzyl ester
2-Methyl-3-benzyloxycarbonyl-5-hydroxyindole (10.0 g, 35.54 mmol, 1.0 eq) was dissolved in acetonitrile (250 mL), followed by ethyl-2-bromo-isobutyrate (7.63 g, 39.10 mmol, 2.0 eq). Potassium carbonate (9.82 g, 71.08 mmol, 8.7 eq) was also added followed by potassium iodide (catalytic amount). The reaction mixture was refluxed for 24 hours. The reaction mixture was washed with brine and extracted with ethyl acetate (3×100 mL) and dried over sodium sulfate. The product was chromatographed in a hexane to hexane/ethyl acetate 7:3. 6.88 g of the product was obtained, 48% yield.

reactant | 2-Methyl-3-benzyloxycarbonyl-5-hydroxyindole | 35.54 mmol, 10.0 g, 1.0 eq | CC=1NC2=CC=C(C=C2C1C(=O)OCC1=CC=CC=C1)O | C17H15NO3
reactant | ethyl-2-bromo-isobutyrate | 39.10 mmol, 7.63 g, 2.0 eq | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | Potassium carbonate | 71.08 mmol, 9.82 g, 8.7 eq | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 5-(1-Ethoxycarbonyl-1-methyl-ethoxy)-2-methyl-1H-indole-3-carboxylic acid benzyl ester | 6.88 g, 48% yield | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)OC(C)(C)C(=O)OCC)C | C23H25NO5
